US07528134B2
tert-butyl 4-(6-oxo-1(6H)-pyridazinyl)-1-piperidinecarboxylate
tert-Butyl 4-bromo-1-piperidinecarboxylate (1.00 g, 3.78 mmol) in DMF (20 mL) was treated with K2CO3 (523 mg, 3.78 mmol) and 3(2H)-pyridazinone (340 mg, 3.78 mmol) and then heated at 45° C. for 60 hours. The reaction mixture was allowed to cool to room temperature, poured into water (80 mL) and extracted with ethyl acetate (80 mL). The organic layer was washed with brine (3×50 mL), dried over MgSO4, filtered, and the filtrate concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel (elution with hexanes:ethyl acetate, 3:1) to provide the title compound (180 mg, 17% yield). 1H NMR (300 MHz, DMSO-d6) δ 1.41 (s, 9H), 1.66 (m, 4H), 2.91 (m, 2H), 4.05 (m, 2H), 4.96 (m, 1H), 6.93 (dd, 1H, J=1.5, 9.0 Hz), 7.39 (dd, 1H, J=3.0, 9.0 Hz), 7.95 (dd, 1H, J=3.0, 9.0 Hz); (MS (DCI/NH3) m/e 280 (M+H)+.

reactant | tert-Butyl 4-bromo-1-piperidinecarboxylate | 3.78 mmol, 1.00 g | BrC1CCN(CC1)C(=O)OC(C)(C)C | C10H18BrNO2
reactant | K2CO3 | 3.78 mmol, 523 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3(2H)-pyridazinone | 3.78 mmol, 340 mg | N=1NC(C=CC1)=O | C4H4N2O
reactant | water | 80 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-(6-oxo-1(6H)-pyridazinyl)-1-piperidinecarboxylate | 180 mg, 17% yield | O=C1C=CC=NN1C1CCN(CC1)C(=O)OC(C)(C)C | C14H21N3O3
